US04031107
PREPARATION OF 5-tert-BUTYLAMINO-6-CHLORO-2-(TRIFLUOROMETHYL)-1H- IMIDAZO [4,5-b] PYRIDINE
1-Methoxy-6-chloro-2-(trifluoromethyl)-1H-imidazo [4,5-b] pyridine (2.0 grams) was mixed with tert-butylamine (5 milliliters) in 10 milliliters of diethyl ether. The reaction mixture was permitted to stand for eight days; then solvent was evaporated and the residue taken up in 8 milliliters of chloroform, permitted to stand for two hours, and filtered to separate the desired 5-tert-butylamino-6-chloro-2-(trifluoromethyl)-1H-imidazo [4,5-b] -pyridine, m.p., 252° -4° C.

reactant | 1-Methoxy-6-chloro-2-(trifluoromethyl)-1H-imidazo [4,5-b] pyridine | 2.0 grams | CON1C(=NC2=NC=C(C=C21)Cl)C(F)(F)F | C8H5ClF3N3O
reactant | tert-butylamine | 5 milliliters | C(C)(C)(C)N | C4H11N
solvent | diethyl ether | 10 milliliters | C(C)OCC | C4H10O
product | 5-tert-BUTYLAMINO-6-CHLORO-2-(TRIFLUOROMETHYL)-1H- IMIDAZO [4,5-b] PYRIDINE | C(C)(C)(C)NC1=C(C=C2C(=N1)N=C(N2)C(F)(F)F)Cl | C11H12ClF3N4
